US05238944
Preparation of Isooctyl Acrylate: Acrylamide: Vinyl Acetate (75:5:20) Copolymer
The procedure of PREPARATIVE METHOD 1 above acrylate, 8.0 g acrylamide, 32.0 g vinyl acetate, 0.32 g benzoyl peroxide, 216.0 g ethyl acetate and 24.0 g methyl alcohol. The resulting polymer was diluted with the ethyl acetate/methyl alcohol mixture to 21.52% solids. The adhesive polymer had a measured inherent viscosity of 1.40 dl/g in ethyl acetate at a concentration of 0.15 g/dl. Its Brookfield viscosity was 2,300 centipoise.

reactant | acrylate | C(C=C)(=O)[O-]
reactant | acrylamide | 8.0 g | C(C=C)(=O)N | C3H5NO
reactant | vinyl acetate | 32.0 g | C(C)(=O)OC=C | C4H6O2
reactant | benzoyl peroxide | 0.32 g | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
solvent | ethyl acetate methyl alcohol | C(C)(=O)OCC.CO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 216.0 g | C(C)(=O)OCC | C4H8O2
solvent | methyl alcohol | 24.0 g | CO | CH4O
product | Isooctyl Acrylate Acrylamide Vinyl Acetate | C(C=C)(=O)OCCCCCC(C)C.C(C=C)(=O)N.C(C)(=O)OC=C | InChI=1S/C11H20O2.C4H6O2.C3H5NO/c1-4-11(12)13-9-7-5-6-8-10(2)3;1-3-6-4(2)5;1-2-3(4)5/h4,10H,1,5-9H2,2-3H3;3H,1H2,2H3;2H,1H2,(H2,4,5)
